US07943609B2
(2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy}-N-tritylbutan-2-amine (3.26 g, 5.92 mmol) was dissolved in 75 mL of anhydrous CH2Cl2 and 9.6 mL of glacial acetic acid. The reaction mixture was cooled to 0° C. under an atmosphere of N2 and boron trifluoride diethyl etherate (790 μL, 5.92 mmol) was added dropwise over several minutes. After stirring for 4 hours, the reaction mixture was treated with 90 mL of cold, aqueous 10% NaOH solution. The layers were separated and the aqueous portion was extracted with CH2Cl2 (3×20 mL). The combined organic layers were washed with brine (10 mL), dried over Na2SO4, filtered and concentrated under reduced pressure. Chromatography (SiO2, 0-5% methanol/CHCl3) gave 1.83 g of (2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy}butan-2-amine as a white solid.

reactant | (2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy}-N-tritylbutan-2-amine | 5.92 mmol, 3.26 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C | C36H45NO2Si
reactant | boron trifluoride diethyl etherate | 5.92 mmol, 790 μL | B(F)(F)F.CCOCC
reactant | NaOH | [OH-].[Na+]
solvent | CH2Cl2 | 75 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | 9.6 mL | C(C)(=O)O | C2H4O2
product | (2R,3R)-3-(benzyloxy)-1-{[tert-butyl(dimethyl)silyl]oxy}butan-2-amine | 1.83 g | C(C1=CC=CC=C1)O[C@@H]([C@@H](CO[Si](C)(C)C(C)(C)C)N)C | C17H31NO2Si
